US07361623B2
To a stirred solution of diethylphosphine (6.72 g, 74,6 mmol) in THF (150 ml) at −35° C., was added 47 ml of n-BuLi (1.6 M). Next, bis(2-chloroethyl)trimethylsilylamine (8.18 g, 38.4 mmol) in 40 ml tetrahydrofuran was then added dropwise to the LiP(Et)2 in tetrahydrofuran at −50° C. The mixture was allowed to warm to room temperature and stirred for 30 minutes. It was then heated to 60° C. and stirred overnight after which 100 ml of water was added to hydrolyse the silyl groups and the reaction mixture heated to 60° C. for 1 hour to ensure complete removal of the silyl groups. The reaction mixture was dried by passing it through a small bed of MgSO4, which was subsequently washed through with 60 ml diethyl ether. The solvent was removed to give 6.96 g bis(2-diethylphosphino-ethyl)-amine (Yield: 73%). 1H-NMR (C6D6) δ 1.12 (12H, d of t, CH2CH3, J=7.2 and 14.1 Hz), 1.38 (8H, q, CH2CH3, J=7.2), 1.60 (4H, t, (CH2)P, J=7.2) and 2.84 (4H, q, (CH2)N, J=7.8). 31P-NMR (C6D6) δ −26.02.

reactant | diethylphosphine | 74,6 mmol, 6.72 g | C(C)PCC | C4H11P
reactant | n-BuLi | 1.6 M, 47 ml | [Li]CCCC
reactant | bis(2-chloroethyl)trimethylsilylamine | 38.4 mmol, 8.18 g | ClCCN([Si](C)(C)C)CCCl | C7H17Cl2NSi
reactant | LiP(Et)2 | [Li]P(CC)CC
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | bis(2-diethylphosphino-ethyl)-amine | 6.96 g, Yield: 73% | C(C)P(CCNCCP(CC)CC)CC | C12H29NP2
